US07199135B2
N-{5-[1-(3-{[bis(4-fluorophenyl)(hydroxy)acetyl]amino}propyl)-4-piperidinyl]-2,4-difluoro phenyl}-2-methylpropanamide:
Example 160 was prepared from bis(4-fluoro phenyl) (hydroxy)acetic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2,4-difluoro phenyl}-2-methyl propanamide according to the procedures described in Scheme 12: 1H NMR (400 MHz, CDCl3) δ 9.31 (s, br, 1 H), 8.44–8.33 (m, 1 H), 7.59–7.45 (m, 4 H), 7.39 (s, 1 H), 6.97 (t, 4 H, J=8.8 Hz), 6.80 (t, 1 H, J=9.6 Hz), 5.61–5.36 (br, 1 H), 3.57–3.43 (m, 2 H), 3.14–2.99 (m, 2 H), 2.99–2.84 (m, 1 H), 2.62–2.47 (m, 2 H), 2.47–2.29 (m, 1 H), 2.14–1.93 (m, 4 H), 1.81–1.59 (m, 4 H), 0.98 (apparent t, 6 H, J=6.8 Hz); ESMS m/e: 586.3 (M+H)+.

reactant | bis(4-fluoro phenyl) (hydroxy)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)(O)C1=CC=C(C=C1)F | C14H10F2O3
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2,4-difluoro phenyl}-2-methyl propanamide | NCCCN1CCC(CC1)C=1C(=CC(=C(C1)NC(C(C)C)=O)F)F | C18H27F2N3O
product | N-{5-[1-(3-{[bis(4-fluorophenyl)(hydroxy)acetyl]amino}propyl)-4-piperidinyl]-2,4-difluoro phenyl}-2-methylpropanamide | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C(=CC(=C(C1)NC(C(C)C)=O)F)F)(O)C1=CC=C(C=C1)F | C32H35F4N3O3
